US07884109B2
Synthesis of (R)-1-azido-7-fluoro-1,2,3,4-tetrahydronaphthalene
DBU (27.1 mL, 180.5 mmol, 3 equiv.) was added to a solution of (S)-7-Fluoro-1,2,3,4-tetrahydronaphthalen-1-ol (10 g, 60.2 mmol, 1 equiv.) in toluene (300 mL). The resulted dark red solution was cooled in ice bath. Diphenylphosphoryl azide (38.6 mL, 180.6 mmol, 3 equiv) was added drop-wise within 30 min. The reaction solution was slowly brought to RT and stirred overnight. TLC was checked and showed no more SM. The reaction was diluted with methylene chloride (200 mL). The methylene chloride layer was washed with saturated NaHCO3, brine, water, saturated NH4Cl, and brine. The organic layer was separated and dried (Na2SO4), evaporated under reduced pressure to give a dark-red syrup which was purified on ISCO (80 g column, 0-2% EtOAc-hexane) to give a colorless oil product (7.9 g, 70%). 1H NMR (400 MHz, CDCl3) δ 7.07-7.11 (m, 1H), 7.02 (dd, 1H), 6.91-6.96 (m, 1H), 4.51 (t, 1H), 2.69-2.86 (m, 2H), 1.76-2.05 (m, 4H).

reactant | DBU | 180.5 mmol, 27.1 mL, 3 equiv. | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | (S)-7-Fluoro-1,2,3,4-tetrahydronaphthalen-1-ol | 60.2 mmol, 10 g, 1 equiv. | FC1=CC=C2CCC[C@@H](C2=C1)O | C10H11FO
reactant | Diphenylphosphoryl azide | 180.6 mmol, 38.6 mL, 3 equiv | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-azido-7-fluoro-1,2,3,4-tetrahydronaphthalene | 7.9 g, 70% | N(=[N+]=[N-])[C@@H]1CCCC2=CC=C(C=C12)F | C10H10FN3
